*****************************************************************
* OSRAM OS                                                      *
* PSPICE Library for Photodiodes	                        *
* Version 05/2011 / hh	                                        *
*****************************************************************
* internet          :  www.osram-os.com                         *
*****************************************************************
*                                                               *
* Models provided by OSRAM are not warranted by OSRAM as        *
* fully representing all the specifications and operating       *
* characteristics of the semiconductor product to which the     *
* model relates. The models describe the characteristics of     *
* typical devices.                                              *
* In all cases, the current data sheet information for a given  *
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Although models can be a useful tool in evaluating device     *
* performance, they cannot model exact device performance under *
* all conditions, nor are they intended to replace bread-       *
* boarding for final verification. OSRAM therefore does not     *
* assume any liability arising from their use.                  *
* OSRAM reserves the right to change models without prior       *
* notice.                                                       *
*                                                               *
*****************************************************************
*                                                               *
* This library contains models of the following OSRAM           *
* photodiodes                                                   *
* 1. enhanced models (parts may be not available any more)      *
*  Standard IR Photodiode (SENS=100% at 880nm):                 *
*   SFH203       SFH203P       SFH213       SFH214              *
*   SFH2400      SFH2500	       SFH2505                  *
*  Standard IR Photodiode (SENS=100% at 880nm):                 *
*   SFH229       SFH2504                                        *
*  ALS Photodiode (SENS=100% at 550nm):                         *
*   SFH2430                                                     *
*  Standard IR Photodiode (SENS=100% at 880nm):                 *
*   BPW34        BPX61         SFH205       SFH206              *
*   SFH235                                                      *
*  Standard IR Photodiode (SENS=100% at 880nm):                 *
*   BP104        SFH225                                         *
*  Low IR Sensitive Photodiode (SENS=100% at 800nm):            *
*   SFH2701      SFH2301       SFH2302                          *
*  Blue Sensitive Photodiode (SENS=100% at 780nm):              *
*   SFH2331      SFH2332       SFH2732      SFH2735             *
*                                                               *
*---------------------------------------------------------------*
* connections:     optical input(+)                             *
*                   |      optical input(-)                     *
*                   |       |      cathode                      *
*                   |       |       |   anode                   *
*                   |       |       |    |                      *
*.subckt  SFHXXXX  Opt_In+ Opt_In- Cath Ano                     *
*---------------------------------------------------------------*
* optical input:                                                *
*    connect voltage source between optical input(+) and        *
*    optical input(-) with voltage representing                 *
*    irradiance (1 mV represents 1 mW/cm2)                      *
*    For default (no light), set both optical inputs to         *
*    ground (0) = 0VDC                                          *
*---------------------------------------------------------------*
* parameter SENS:                                               *
*    the subcircuit also contains a parameter that may          *
*    be changed/handed over by the user:                        *
*    SENS = rel. spectral sensitivity in % for the wavelength   *
*           of interest normalized to the peak rel. sensitivity *
*    default = 100 (%). Needs to be adapted according to        *
*              datasheet for wavelength of interest             *
*              For standard IR photodiodes 100(%) this works    *
*              typ. well for 850-950 nm                         *
*              For ambient light sensors 100(%) refers to       *
*              around 550 nm                                    *
*    RESP = photocurrent / irradiance,                          *
*              e.g. 50uA/1mW/cm2 = 50e-3 (mA/(mW/cm2))          *
*              usually this parameter don’t need to be changed  *
*              *1e-2 to compensate for percentage in SENS       *
*    LENS = lens-factor, defaut = 1 for no lens                 *
*---------------------------------------------------------------*
* The model includes parameters for:                            *
*    1) forward/reverse I-V behaviour                           *
*    2) Depletion (junction) capacitance                        *
* The model does NOT include parameters for:                    *
*    3) Capacitance in forward bias                             *
*    4) Serial Resistance dependency on                         *
*       wavelength/bias/irradiance                              *
*    5) Noise                                                   *
*    6) Intrinsic optical-electrical frequency response         *
*       wavelength/bias/irradiance dependency                   *
*****************************************************************
**** F62 SENS=100 at 880nm SFH2400,2500,203P lens=1, SFH203 lens=7 
**** F62 SENS=100 at 880nm SFH213 lens=13, SFH214 lens=3, SFH2500,2505 lens=10
.subckt SFH203 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=7e-5 lens=7
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F62L
Rs 2 Cath 0.5
.model F62L D(IS=6.5e-12 N=1 IKF=9e-6 Cjo=10.71p M=0.3736 Vj=0.2384 BV=120)
.ends

.subckt SFH203P Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=7e-5 lens=1
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F62L
Rs 2 Cath 0.5
.model F62L D(IS=6.5e-12 N=1 IKF=9e-6 Cjo=10.71p M=0.3736 Vj=0.2384 BV=120)
.ends

.subckt SFH213 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=7e-5 lens=13
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F62L
Rs 2 Cath 0.5
.model F62L D(IS=6.5e-12 N=1 IKF=9e-6 Cjo=10.71p M=0.3736 Vj=0.2384 BV=120)
.ends

.subckt SFH214 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=7e-5 lens=3
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F62L
Rs 2 Cath 0.5
.model F62L D(IS=6.5e-12 N=1 IKF=9e-6 Cjo=10.71p M=0.3736 Vj=0.2384 BV=120)
.ends

.subckt SFH2400 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=7e-5 lens=1
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F62L
Rs 2 Cath 0.5
.model F62L D(IS=6.5e-12 N=1 IKF=9e-6 Cjo=10.71p M=0.3736 Vj=0.2384 BV=120)
.ends

.subckt SFH2500 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=7e-5 lens=10
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F62L
Rs 2 Cath 0.5
.model F62L D(IS=6.5e-12 N=1 IKF=9e-6 Cjo=10.71p M=0.3736 Vj=0.2384 BV=120)
.ends

.subckt SFH2505 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=7e-5 lens=10
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F62L
Rs 2 Cath 0.5
.model F62L D(IS=6.5e-12 N=1 IKF=9e-6 Cjo=10.71p M=0.3736 Vj=0.2384 BV=120)
.ends

*****************************************************************

**** F63 SENS=100 at 880nm, SFH2504, lens=1 and SFH229, lens=9
.subckt SFH2504 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=2.6e-5 lens=1
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F63
Rs 2 Cath 3
.model F63 D(IS=8e-13 N=1.07 IKF=0.001 Cjo = 1.21e-11 M=0.4 VJ=0.4 BV=130)
.ends
**** F63 SENS=100 at 880nm, SFH2504, lens=1 and SFH229, lens=9
.subckt SFH229 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=2.6e-5 lens=9
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F63
Rs 2 Cath 3
.model F63 D(IS=8e-13 N=1.07 IKF=0.001 Cjo = 1.21e-11 M=0.4 VJ=0.4 BV=130)
.ends

*****************************************************************



**** F186 only SFH2430, SENS=100 at 550nm (als), lens=1
.subckt SFH2430 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=13e-5 lens=1
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F0186B
Rs 2 Cath 3
.model F0186B D(IS=3.1e-12 N=1.03 IKF=0.01 Cjo=1.58n M=0.13 Vj=1.12 BV=8)
.ends

*****************************************************************

**** F301 SENS=100 at 880nm, BPW34,BPX61,SFH205,206,235, lens=1 
.subckt BPW34 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=50e-5 lens=1
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F301
Rs 2 Cath 6.5
.model F301 D(IS=3.5e-11 N=1.01 IKF=6e-5 Cjo=73.01p M=0.452 Vj=0.304 BV=200)
.ends

**** F301 SENS=100 at 880nm, BPW34,BPX61,SFH205,206,235, lens=1 
.subckt BPX61 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=50e-5 lens=1
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F301
Rs 2 Cath 6.5
.model F301 D(IS=3.5e-11 N=1.01 IKF=6e-5 Cjo=73.01p M=0.452 Vj=0.304 BV=200)
.ends


**** F301 SENS=100 at 880nm, BPW34,BPX61,SFH205,206,235, lens=1 
.subckt SFH205 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=50e-5 lens=1
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F301
Rs 2 Cath 6.5
.model F301 D(IS=3.5e-11 N=1.01 IKF=6e-5 Cjo=73.01p M=0.452 Vj=0.304 BV=200)
.ends


**** F301 SENS=100 at 880nm, BPW34,BPX61,SFH205,206,235, lens=1 
.subckt SFH206 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=50e-5 lens=1
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F301
Rs 2 Cath 6.5
.model F301 D(IS=3.5e-11 N=1.01 IKF=6e-5 Cjo=73.01p M=0.452 Vj=0.304 BV=200)
.ends


**** F301 SENS=100 at 880nm, BPW34,BPX61,SFH205,206,235, lens=1 
.subckt SFH235 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=50e-5 lens=1
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F301
Rs 2 Cath 6.5
.model F301 D(IS=3.5e-11 N=1.01 IKF=6e-5 Cjo=73.01p M=0.452 Vj=0.304 BV=200)
.ends
*****************************************************************


**** F302 SENS=100 at 880nm, SFH225, BP104, lens=1 
.subckt SFH225 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=36e-5 lens=1
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F302
Rs 2 Cath 14
.model F302 D(IS=3e-11 N=1.02 IKF=2e-5 Cjo=48.3p M=0.444 Vj=0.289 BV=100)
.ends


**** F302 SENS=100 at 880nm, SFH225, BP104, lens=1 
.subckt BP104 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=36e-5 lens=1
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F302
Rs 2 Cath 14
.model F302 D(IS=3e-11 N=1.02 IKF=2e-5 Cjo=48.3p M=0.444 Vj=0.289 BV=100)
.ends
*****************************************************************


**** F394 SENS=100 at 800nm, SFH2701, lens=1 and SFH2301,2302, lens=8
.subckt SFH2701 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=3e-5 lens=1
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F394
Rs 2 Cath 3
C1 Ano Cath 1.66p
.model F394 D(IS=6e-12 N=1 IKF=1e-6 Cjo=1.64p M=0.9 Vj=0.23 BV=110)
.ends

**** F394 SENS=100 at 800nm, SFH2701, lens=1 and SFH2301,2302, lens=8
.subckt SFH2301 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=3e-5 lens=8
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F394
Rs 2 Cath 3
C1 Ano Cath 1.66p
.model F394 D(IS=6e-12 N=1 IKF=1e-6 Cjo=1.64p M=0.9 Vj=0.23 BV=110)
.ends

**** F394 SENS=100 at 800nm, SFH2701, lens=1 and SFH2301,2302, lens=8
.subckt SFH2302 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=3e-5 lens=8
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F394
Rs 2 Cath 3
C1 Ano Cath 1.66p
.model F394 D(IS=6e-12 N=1 IKF=1e-6 Cjo=1.64p M=0.9 Vj=0.23 BV=110)
.ends
*****************************************************************

**** F8914 SENS=100 at 780nm, SFH2732,2735, lens=1 and SFH2331,2332, lens=8
.subckt SFH2732 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=2.4e-5 lens=1
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F8914
Rs 2 Cath 1
C1 Ano Cath 2.1p
.model F8914 D(IS=4e-12 N=1 IKF=4e-6 Cjo=1.64p M=0.88 Vj=0.26 BV=80)
.ends

**** F8914 SENS=100 at 780nm, SFH2732,2735, lens=1 and SFH2331,2332, lens=8
.subckt SFH2735 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=2.4e-5 lens=1
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F8914
Rs 2 Cath 1
C1 Ano Cath 2.1p
.model F8914 D(IS=4e-12 N=1 IKF=4e-6 Cjo=1.64p M=0.88 Vj=0.26 BV=80)
.ends


**** F8914 SENS=100 at 780nm, SFH2732,2735, lens=1 and SFH2331,2332, lens=8
.subckt SFH2331 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=2.4e-5 lens=8
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F8914
Rs 2 Cath 1
C1 Ano Cath 2.1p
.model F8914 D(IS=4e-12 N=1 IKF=4e-6 Cjo=1.64p M=0.88 Vj=0.26 BV=80)
.ends


**** F8914 SENS=100 at 780nm, SFH2732,2735, lens=1 and SFH2331,2332, lens=8
.subckt SFH2332 Opt_In+ Opt_In- Cath Ano
+params: SENS=100 resp=2.4e-5 lens=8
G001 2 Ano Opt_In+ Opt_In- {SENS*resp*lens}
D1 Ano 2 F8914
Rs 2 Cath 1
C1 Ano Cath 2.1p
.model F8914 D(IS=4e-12 N=1 IKF=4e-6 Cjo=1.64p M=0.88 Vj=0.26 BV=80)
.ends
*****************************************************************

